US06100272
1'-tert-Butyl-5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indol-3,4'-piperidine]
The title compound was prepared from 1'-tert-butyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine) (D61) and 2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylic acid (D47) using the method outlined in Example 15.

reactant | 1'-tert-butyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine) | C(C)(C)(C)N1CCC2(CC1)COC1=CC=3CCNC3C=C12 | C18H26N2O
reactant | 2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylic acid | CC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)O | C18H17NO3
product | 1'-tert-Butyl-5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indol-3,4'-piperidine] | C(C)(C)(C)N1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)N1C(CCC1)=O)C | C36H41N3O3
